US05616586
9-Bromo-5-(1-phenylcarbamoylethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (less polar)
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-(1-carboxyethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (less polar) (100 mg, 0.28 mmol) and aniline (28 μL, 0.31 mmol) to give 70 mg of the title compound (58%): mp>300° C.; 1H NMR (270 MHz, DMSO-d6) δ12.07 (s, 1H), 10.00 (s, 1H), 7.52 (d, 2H, J=8 Hz), 7.29 (t, 1H, J=8 Hz), 7.19 (s, 1H), 7.17 (s, 1H), 7.05 (t, 1H, J=8 Hz), 5.19 (bd, 1H, J=9 Hz), 3.10 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.67~2.84 (m, 2H, J=17.1 Hz), 2.01 (dm, 1H, J=13.5 Hz), 1.72~1.92 (m, 1H), 1.02 (d, 3H, J=7 Hz).

reactant | 9-bromo-5-(1-carboxyethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(C)C(=O)O | C14H13BrN2O4
reactant | aniline | 0.31 mmol, 28 μL | NC1=CC=CC=C1 | C6H7N
product | 9-Bromo-5-(1-phenylcarbamoylethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 70 mg, 58% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(C)C(NC2=CC=CC=C2)=O | C20H18BrN3O3
